US07626039B2
[(S)-1-(4-Bromo-5-chloro-1H-imidazol-2-yl)-2-phenyl-ethyl]-carbamic acid tert-butyl ester: To a suspension of 141C (5.0 g, 17 mmol) in acetonitrile (400 mL) at 0° C. was added NCS (2.3 g, 17 mmol). The reaction mixture was stirred at 0° C. for 1 h, then at rt for 1 h followed by 50° C. overnight. The reaction mixture was concentrated and the residue was dissolved in ethyl acetate, washed with water and brine, dried over sodium sulfate, and concentrated. The crude was purified by flash column chromatography to give [(S)-1-(4-chloro-1H-imidazol-2-yl)-2-phenyl-ethyl]-carbamic acid tert-butyl ester as white solid (2 g, 36%). LCMS m/z 321 (M+H)+. To a solution of this intermediate (2 g, 6.20 mmol) in chloroform was added NBS (1.2 g, 6.8 mmol) and the reaction mixture was stirred at rt for 20 min. The reaction was quenched with water. The organic layer was washed with water and brine, dried over sodium sulfate and concentrated. The crude product was purified by crystallization from hexane to give 141D as an off-white solid (1.7 g, 71%). LC/MS m/z 400 (M+H)+. 1HNMR (CDCl3, 400 MHz) δ 7.28 (m, 3H), 7.12 (d, 2H), 5.33 (d, 1H), 4.81 (d, 1H), 3.27 (dd, 2H), 1.3 (s, 9H).

reactant | [(S)-1-(4-Bromo-5-chloro-1H-imidazol-2-yl)-2-phenyl-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](CC1=CC=CC=C1)C=1NC(=C(N1)Br)Cl)=O | C16H19BrClN3O2
reactant | NCS | 17 mmol, 2.3 g | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | acetonitrile | 400 mL | C(C)#N | C2H3N
product | [(S)-1-(4-chloro-1H-imidazol-2-yl)-2-phenyl-ethyl]-carbamic acid tert-butyl ester | 2 g, 36% | C(C)(C)(C)OC(N[C@@H](CC1=CC=CC=C1)C=1NC=C(N1)Cl)=O | C16H20ClN3O2
